US05175157
3-[(N-(3-(4-Methoxy-phenoxy)-propyl)-hexahydro-azepin-3-yl)methyl]-6,7-methylenedioxy-2-oxo-1,3,4,5-tetrahydro-2H-3-benzazepine-hydrochloride
Prepared from 6,7-methylenedioxy-2-oxo-1,3,4,5-tetrahydro-2H-3-benzazepine and N-[3-(4-methoxy-phenoxy)-propyl]-3-chloromethylhexahydro-azepine analogously to Example 2.

reactant | 6,7-methylenedioxy-2-oxo-1,3,4,5-tetrahydro-2H-3-benzazepine | C1OC2=C(C=CC=3CC(NCCC32)=O)O1 | C11H11NO3
reactant | N-[3-(4-methoxy-phenoxy)-propyl]-3-chloromethylhexahydro-azepine | COC1=CC=C(OCCCN2CC(CCCC2)CCl)C=C1 | C17H26ClNO2
product | 3-[(N-(3-(4-Methoxy-phenoxy)-propyl)-hexahydro-azepin-3-yl)methyl]-6,7-methylenedioxy-2-oxo-1,3,4,5-tetrahydro-2H-3-benzazepine-hydrochloride | Cl.COC1=CC=C(OCCCN2CC(CCCC2)CN2CCC3=C(CC2=O)C=CC2=C3OCO2)C=C1 | InChI=1S/C28H36N2O5.ClH/c1-32-23-7-9-24(10-8-23)33-16-4-14-29-13-3-2-5-21(18-29)19-30-15-12-25-22(17-27(30)31)6-11-26-28(25)35-20-34-26;/h6-11,21H,2-5,12-20H2,1H3;1H
